US09399639B2
Step 2) 1-chloroethyl 2-((tert-butoxycarbonyl)amino)-3-methylbutanoate
The title compound was prepared according to the procedure as described in Example 17 step 1 using 2-((tert-butoxycarbonyl)amino)-3-methylbutanoic acid (3 g, 13.81 mmol) in DCM (75 mL) and H2O (75 mL), NaHCO3 (4.64 g, 55.23 mmol), TBAHSO4 (469 mg, 1.38 mmol) and a solution of 1-chloroethyl sulfochloridate (2.97 g, 16.57 mmol) in DCM (15 mL). The crude product was purified by a silica gel column chromatography (PE/EtOAc (v/v)=100/1 to 50/1) to afford the title compound as a white solid (3 g, 78%). The title compound was characterized by 1H NMR as shown below:

reactant | 2-((tert-butoxycarbonyl)amino)-3-methylbutanoic acid | 13.81 mmol, 3 g | C(C)(C)(C)OC(=O)NC(C(=O)O)C(C)C | C10H19NO4
reactant | NaHCO3 | 55.23 mmol, 4.64 g | C(=O)(O)[O-].[Na+]
reactant | DCM | 75 mL | C(Cl)Cl | CH2Cl2
reactant | DCM | 15 mL | C(Cl)Cl | CH2Cl2
solvent | H2O | 75 mL | O | H2O
product | 1-chloroethyl 2-((tert-butoxycarbonyl)amino)-3-methylbutanoate | 3 g, 78% | C(C)(C)(C)OC(=O)NC(C(=O)OC(C)Cl)C(C)C | C12H22ClNO4
